US05324747
A mixture of 1.5 g (2.9 mmol) of N-[3-hydroxy-5-(octadecyloxy)phenyl]-N-(2-methoxy-2-oxoethyl)glycine methyl ester, 0.935 g (4.35 mmol) of 2-(chloromethyl)quinoline hydrochloride (Lancaster Organic Research Chemicals), 2.0 g (14.5 mmol) of potassium carbonate and 0.435 g (2.9 mmol) of sodium iodide in 100 ml of acetone and 20 ml of DMF was stirred at reflux under argon for 24 hours. The solvents were removed at reduced pressure and the residue was treated with water and the product was extracted with ethyl acetate. The dried extract was concentrated to a solid which was purified by HPLC using 30% ethyl acetate-hexane followed by recrystallization from hexane to give 1.5 g (78% yield, mp 76°-79°) of N-(2-methoxy-2-oxoethyl)-N-[3-(octadecyloxy)-5-[(2-quinolinyl)methoxy]phenyl]glycine methyl ester.

reactant | N-[3-hydroxy-5-(octadecyloxy)phenyl]-N-(2-methoxy-2-oxoethyl)glycine methyl ester | 2.9 mmol, 1.5 g | COC(CN(CC(=O)OC)C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)O)=O | C30H51NO6
reactant | 2-(chloromethyl)quinoline hydrochloride | 4.35 mmol, 0.935 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | potassium carbonate | 14.5 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 2.9 mmol, 0.435 g | [I-].[Na+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N-(2-methoxy-2-oxoethyl)-N-[3-(octadecyloxy)-5-[(2-quinolinyl)methoxy]phenyl]glycine methyl ester | 1.5 g, 78% yield | COC(CN(C1=CC(=CC(=C1)OCC1=NC2=CC=CC=C2C=C1)OCCCCCCCCCCCCCCCCCC)CC(=O)OC)=O | C40H58N2O6
